US05356864
A solution of 242 g (3.5 mol) of sodium nitrite in 440 ml of water is added dropwise with stirring to a mixture, cooled to -10° C., of 147 g (0.87 mol) of 2-amino-5-fluoro-benzothiazole, 1700 ml of conc. hydrochloric acid and 20 g of copper power and the reaction mixture is stirred at 0° C. for 60 minutes and at 50° C. for a further 60 minutes. It is then extracted with chloroform and the solvent is carefully removed by distillation from the organic phase in a water-jet vacuum. 80 g (49% of theory) of 2-chloro-5-fluoro-benzothiazole are obtained as a crystalline residue of melting point 69° C.

reactant | sodium nitrite | 3.5 mol, 242 g | N(=O)[O-].[Na+]
reactant | 2-amino-5-fluoro-benzothiazole | 0.87 mol, 147 g | NC=1SC2=C(N1)C=C(C=C2)F | C7H5FN2S
reactant | hydrochloric acid | 1700 ml | Cl | ClH
solvent | water | 440 ml | O | H2O
catalyst | copper | 20 g | [Cu] | Cu
product | 2-chloro-5-fluoro-benzothiazole | 80 g, 49% | ClC=1SC2=C(N1)C=C(C=C2)F | C7H3ClFNS
